US09303023B2
N-(1-(3-(6-methoxy-1H-indol-1-yl)propyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide
A solution of N-(1-(3-(6-methoxyindolin-1-yl)propyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (69 mg, 0.15 mmol) in acetone (1.0 mL) was added dropwise to a suspension of MnO2 (50 mg, 0.575 mmol) in acetone (0.5 mL). After stirring the dark reaction mixture for 18 h, the mixture was filtered over celite, rinsed with acetone and the solvent was removed under reduced pressure. Purification by prep. HPLC yielded the title compound (11 mg) as a redish solid. LC-MS conditions D: tR=1.14 min, [M+H]+=456.3.

reactant | N-(1-(3-(6-methoxyindolin-1-yl)propyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 0.15 mmol, 69 mg | COC1=CC=C2CCN(C2=C1)CCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C26H27N5O3
solvent | acetone | 1.0 mL | CC(=O)C | C3H6O
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 0.575 mmol, 50 mg | O=[Mn]=O
product | N-(1-(3-(6-methoxy-1H-indol-1-yl)propyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 11 mg | COC1=CC=C2C=CN(C2=C1)CCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C26H25N5O3
